US05128356
2-Butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid
A mixture of methyl 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylate (3.2 g), sodium azide (7.4 g) and ammonium chloride (6.1 g) in DMF (30 ml) was stirred for 4 days at 115° C. To the reaction mixture was added water, which was adjusted to pH 3-4 with 1N-HCl. Resulting crude crystals (1) were purified by column chromatography on silica gel. The crystals thus obtained were recrystallized from ethyl acetate - methanol to afford colorless prisms (2.27 g, 63%), m.p. 168°-169° C.

reactant | methyl 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylate | 3.2 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)C(=O)OC | C27H25N3O2
reactant | sodium azide | 7.4 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 6.1 g | [Cl-].[NH4+]
reactant | HCl | Cl | ClH
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | 2.27 g, 63% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)O | C26H24N6O2
